US05387747
Ethyl 4-benzyloxy-3-oxobutanoate
80 g of 60% NaH are added in portions to 800 ml of anhydrous THF. The medium is cooled to 10° C. and maintained at this temperature. 500 ml of benzyl alcohol are then introduced dropwise. A solution of 65.8 g of ethyl 4-chloroacetoacetate in 200 ml of benzyl alcohol is then added. The mixture is stirred at room temperature for 20 h. It is neutralized by the slow addition of acetic acid (120 ml) while being cooled with an ice bath. The whole is then poured into a mixture of water and ice and extracted with ether. The organic phase is washed with a solution of sodium bicarbonate, dried over MgSO4 and then concentrated to give an orange oil. The product is purified by two successive distillations to give a yellow oil.

reactant | NaH | 80 g | [H-].[Na+]
reactant | THF | 800 ml | C1CCOC1 | C4H8O
reactant | ethyl 4-chloroacetoacetate | 65.8 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
reactant | benzyl alcohol | 200 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | benzyl alcohol | 500 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | water | O | H2O
product | Ethyl 4-benzyloxy-3-oxobutanoate | C(C1=CC=CC=C1)OCC(CC(=O)OCC)=O | C13H16O4
